US06372735B1
1.5 N butyl lithium (22.6 ml, 33.8 mmol) was added to a solution of diisopropylamine (5.0 ml, 36.0 mmol) in tetrahydrofuran (75 ml) under an argon atmosphere at −78° C., and the mixture was stirred for one hr. Ethyl propiolate (2.9 ml, 28.2. mmol) and a solution of 5-isopropoxy-4-methoxy-2-nitrobenzaldehyde (4.5 g, 18.8 mmol) in tetrahydrofuran (50 ml) were then added thereto in that order, and the mixture was stirred at −78° C. for additional 1.5 hr. A solution of acetic acid (5.9 ml, 102 mmol) in tetrahydrofuran (20 ml) was added to the reaction solution. Water was then added thereto, followed by extraction with ethyl acetate. The organic layer was washed with dilute hydrochloric acid, water, a saturated aqueous sodium hydrogencarbonate solution, and saturated brine solution. The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give ethyl 4-(5-isopropoxy-4-methoxy-2-nitrophenyl)-4-hydroxy-2-butynoate (7.27 g). The resultant ethyl 4-(5-isopropoxy-4-methoxy-2-nitrophenyl)-4-hydroxy-2-butynoate was dissolved in toluene (60 ml). 4-Methoxybenzyl azide (9.2 g, 56.4 mmol) was added to the solution. The mixture was heated at 100° C. with stirring overnight. The reaction solution was cooled to room temperature. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give a 1:1 mixture (7.01 g, 75%) of ethyl 4-(1-hydroxy-(5-isopropoxy-4-methoxy-2-nitrophenyl)methyl)-1-(4-methoxybenzyl)-1H-1,2,3-triazole-5-carboxylate (a-1: low polar product (LP)) and ethyl 5-(1-hydroxy-(5-isopropoxy-4-methoxy-2-nitrophenyl)methyl)-1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate (a-2: high polar product (MP)).

reactant | butyl lithium | 33.8 mmol, 1.5 N, 22.6 ml | C(CCC)[Li]
reactant | diisopropylamine | 36.0 mmol, 5.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | Ethyl propiolate | 2.9 ml | C(C#C)(=O)OCC | C5H6O2
reactant | 5-isopropoxy-4-methoxy-2-nitrobenzaldehyde | 18.8 mmol, 4.5 g | C(C)(C)OC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])OC | C11H13NO5
reactant | acetic acid | 102 mmol, 5.9 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | ethyl 4-(5-isopropoxy-4-methoxy-2-nitrophenyl)-4-hydroxy-2-butynoate | 7.27 g | C(C)(C)OC=1C(=CC(=C(C1)C(C#CC(=O)OCC)O)[N+](=O)[O-])OC | C16H19NO7
